US07781584B2
2-(6-Chloro-2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-ylmethyl)-benzonitrile (2).
To a solution of 6-chlorouracil (20 g, 122 mmol) in a mixture of DMF-DMSO (6:1, 600 mL) under nitrogen at 0° C., was added sodium hydride (60%, 5.5 g, 137 mmol) in portions. After 0.5 h, lithium bromide (8 g, 96 mmol) was added into the mixture and stirred for 15 min at 0° C. A solution of α-Bromo-o-tolunitrile (25.1 g, 128 mmol) in DMF (30 mL) was added dropwise, and stirred at this temperature for 1 h, and then RT overnight. It will be understood that alkylation of the amine may be performed under standard conditions known in the art, including the use of a base such as NaH, LiH or the like in an organic solvent or mixture of solvents. The solvent may include DMSO, THF, DMF and the like, or mixtures thereof. In addition, additives may be used, including LiBr, LiI, NaI and the like. The mixture was evaporated and co-evaporated with water in vacuo to remove most of the DMF, and then poured into ice water (1 L). The precipitate was collected by filtration. The crude product was suspended in hot AcOEt-CHCl3 and sonicated for 5 min, allowed to stand at 0° C. for 1 h, and then filtered to give a white solid of the title compound (19 g) in 54% yield. It will also be understood by those skilled in the art that purification may be accomplished using various methods known in the art, including washing with an aqueous/organic solvent or mixture of solvents, recrystallization and/or column chromatography. Non-limiting examples of organic solvents and solvent mixtures may include ethyl acetate, isopropyl acetate, acetone, THF and the like. 1H-NMR (400 MHz, DMSO): δ 11.82 (s, 1H), 7.87 (d, 1H, J=7.6 Hz), 7.71 (t, 1H, J=7.6 Hz), 7.51 (t, 1H, J=7.6 Hz), 7.37 (d, H, J=8 Hz), 6.06 (s, 1H), 5.31 (s, 2H). MS (ES) [m+H] calc'd for C12H9ClN3O2, 262.0; found 262.0.

reactant | 6-chlorouracil | 122 mmol, 20 g | ClC1=CC(NC(N1)=O)=O | C4H3ClN2O2
reactant | sodium hydride | 137 mmol, 5.5 g | [H-].[Na+]
reactant | lithium bromide | 96 mmol, 8 g | [Br-].[Li+]
reactant | α-Bromo-o-tolunitrile | 128 mmol, 25.1 g | BrCC=1C(=CC=CC1)C#N | C8H6BrN
reactant | LiH | [H-].[Li+]
reactant | LiBr | [Li+].[Br-]
reactant | LiI | [Li+].[I-]
reactant | NaI | [Na+].[I-]
solvent | DMF DMSO | 600 mL | CN(C)C=O.CS(=O)C
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | THF | C1CCOC1 | C4H8O
solvent | DMSO | CS(=O)C | C2H6OS
product | 2-(6-Chloro-2,4-dioxo-3,4-dihydro-2H-pyrimidin-1-ylmethyl)-benzonitrile | 19 g, 54% yield | ClC1=CC(NC(N1CC1=C(C#N)C=CC=C1)=O)=O | C12H8ClN3O2
